US04521422
2-Furanyl(7-phenylpyrazolo[1,5-a]pyrimidin-3-yl)methanone
A mixture of 0.86 g of (3-amino-1H-pyrazol-4-yl)-2-furanylmethanone and 0.63 g of 1-phenyl-1-propynone in 35 ml of ethanol with several drops of boron trifluoride etherate was refluxed for 18 hours. The solvent was removed and the residue chromatographed on silica gel with ethyl acetate:hexane (1:20) as eluent and a gradual change to ethyl acetate:hexane (2:5). Elution with ethyl acetate gave a solid which was recrystallized from dichloromethanehexane, giving the desired product, mp 185°-187° C.

reactant | (3-amino-1H-pyrazol-4-yl)-2-furanylmethanone | 0.86 g | NC1=NNC=C1C(=O)C=1OC=CC1 | C8H7N3O2
reactant | ethanol | 35 ml | C(C)O | C2H6O
catalyst | boron trifluoride etherate | several drops | B(F)(F)F.CCOCC
product | 2-Furanyl(7-phenylpyrazolo[1,5-a]pyrimidin-3-yl)methanone | O1C(=CC=C1)C(=O)C=1C=NN2C1N=CC=C2C2=CC=CC=C2 | C17H11N3O2
